US07820658B2
2-Amino-4-[2,4-dichloro-5-(2-morpholin-4-yl-ethoxy)-phenyl]-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl amide
Hydrochloric acid was added to a solution of 2-Amino-4-(2,4-dichloro-5-(2,2-diethoxyethoxy)-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl amide in THF and the solution stirred for ˜18 hrs. Morpholine was added and the solution stirred, sodium triacetoxyborohydride was added and the resulting suspension stirred for ˜18 hrs. Dichloromethane was added and the mixture washed with aqueous ammonia (0.880), water and saturated aqueous sodium chloride solution. The solution was dried over anhydrous sodium sulphate and concentrated to a pale yellow solid. The crude product was purified by chromatography on silica eluting with mixtures of ethyl acetate and hexane.

reactant | Hydrochloric acid | Cl | ClH
reactant | 2-Amino-4-(2,4-dichloro-5-(2,2-diethoxyethoxy)-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl amide | C(C)NC(=O)C1=CC2=C(N=C(N=C2C2=C(C=C(C(=C2)OCC(OCC)OCC)Cl)Cl)N)S1 | C21H24Cl2N4O4S
reactant | Morpholine | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 2-Amino-4-[2,4-dichloro-5-(2-morpholin-4-yl-ethoxy)-phenyl]-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl amide | C(C)NC(=O)C1=CC2=C(N=C(N=C2C2=C(C=C(C(=C2)OCCN2CCOCC2)Cl)Cl)N)S1 | C21H23Cl2N5O3S
